US04379154
A 33% (weight/volume) solution of methylamine in ethanol (7.5 cc) is added dropwise and in the course of 15 minutes to a solution of methyl 2-(pyrid-2-yl)-tetrahydrothiopyran-2-carbodithioate (9 g) in ethanol (60 cc), kept at a temperature of about 20° C. The solution is then stirred for 16 hours at a temperature of about 20° C. The resulting crystals are filtered off, washed twice with ethanol (20 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. A crystalline crude product (7.8 g) is thus obtained, which is redissolved in boiling ethanol (96 cc); decolourising charcoal (0.4 g) is added to the solution thus obtained, which is filtered hot, and the filtrate is then cooled for 30 minutes at 0° C. The resulting crystals are filtered off, washed twice with ethanol (20 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 45° C. N-Methyl-2-(pyrid-2-yl)-tetrahydrothiopyran-2-carbothioamide (6.3 g), melting at 153° C., is thus obtained.

reactant | methylamine | CN | CH5N
reactant | methyl 2-(pyrid-2-yl)-tetrahydrothiopyran-2-carbodithioate | 9 g | N1=C(C=CC=C1)C1(SCCCC1)C(=S)SC | C12H15NS3
reactant | charcoal | 0.4 g | C | CH4
solvent | ethanol | 7.5 cc | C(C)O | C2H6O
solvent | ethanol | 60 cc | C(C)O | C2H6O
solvent | ethanol | 96 cc | C(C)O | C2H6O
product | N-Methyl-2-(pyrid-2-yl)-tetrahydrothiopyran-2-carbothioamide | 6.3 g | CNC(=S)C1(SCCCC1)C1=NC=CC=C1 | C12H16N2S2
